US07008950B1
5-Benzyloxy-3-[4-(dimethylamino)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran
Using 3-[(4-(dimethylamino)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and benzyl bromide, the title compound was obtained in the same manner as in Example 1.

reactant | (4-(dimethylamino)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | CN(C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C)C | C21H27NO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-Benzyloxy-3-[4-(dimethylamino)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | Yield: 40% | C(C1=CC=CC=C1)OC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)N(C)C)C1C)C)C | C28H33NO2
